Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11],-1.31034989374
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12]>>[H:10].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])/[C:7]([H:8])=[C:9]/[O:11][H:12],4.90502348409
[H:1]/[C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])([H:6])[H:7].[H:1][C:2](=[C:3])[C:8]([H:9])[O:10][C:11]([H:12])([H:13])[H:14],3.45173677714
[H:1][O:2]/[C:3]([H:4])=[C:5](/[O:6][H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][H:7],5.956288399040001
[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]/[C:4]([H:5])=[C:6]([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14].[H:3],5.00484838751
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](/[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])[O:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10],2.93671589924
[H:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:7](/[H:8])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17].[H:9]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17],-1.82128719832
[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7][C:9]([H:10])[H:11].[H:8],3.11674286205
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[O:8][H:9]>>[C:5]([H:6])#[C:7][O:8][H:9].[H:1][C:2]#[C:3][H:4],-0.4339943525399999
[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-3.60366857753
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([H:9])=[C:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])[C:4]([H:5])=[O:6],-0.00395954394025
[C:4]([H:5])([O:6][C:7]([H:8])[H:9])=[C:10]([H:11])[H:12].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])[H:9])[C:10]([H:11])[H:12],-1.09669660614
[H:1][C:2]([H:3])=[C:4][C:13]([C:9]([C:5]([H:6])([H:7])[H:8])=[C:10]([H:11])[H:12])([H:14])[H:15]>>[H:1][C:2]([H:3])[C@:4]1([C:5]([H:6])([H:7])[H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]1([H:14])[H:15],0.0830017091993999
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][H:9],4.64922219248
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([H:9])([C:10])[H:14].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:11]([H:12])[H:13],3.11198240125
[H:5].[O:1][C:2]([H:3])([O:4])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1][C@:2]([H:3])([O:4][H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.88193712113
[C:1]#[C:3][C:4]([H:5])([H:6])[H:7].[C:2]>>[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7],-6.364834127540001
[O:1]=[C:2]([H:3])/[C:4](=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]([H:3])[C:4](=[C:5][H:6])[C:11]([H:12])([H:13])[H:14],4.647546534030001
[H:1][O:2][C:3][C:4]([O:5][H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3][C:4]([O:5])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:6],4.47864876809
[H:1][C:2]([H:3])[C:4]([O:5][C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],1.12014651176
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C@@:3]1([H:4])[C:5]([H:6])([H:7])[C@:8]1([H:9])[C:10]([H:11])([H:12])[H:13],-2.31415074
[H:15].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.99104723067
[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])[H:15]>>[C:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])=[C:13]([H:14])[H:15].[H:1][O:2],2.75447601465
[H:1][C:2]#[C:3][O:4][C:5][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:6]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.07991283132
[H:3].[O:1]=[C:2]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1][C@@:2]([H:3])([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-0.311307465896
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])[C:9]([H:10])([H:11])[H:12])=[C:13]([H:14])[H:15]>>[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])=[C:9]([H:10])[H:11])=[C:13]([H:14])[H:15],2.33545648842
